US08669234B2
(S)-benzyl 4-(difluoromethoxy)-2-(methoxycarbonylamino)butanoate
(S)-Benzyl 2-amino-4-(difluoromethoxy)butanoate (116 mg, 0.448 mmol) was dissolved in anhydrous dichloromethane (2.5 mL) and cooled down to 0° C. and TEA (181 mg, 1.79 mmol) and methylchloroformate (51 mg, 0.538 mmol) were added respectively. The mixture was stirred for 30 minutes and then it was stirred at room temperature overnight. The resulting product mixture was quenched with saturated NaHCO3 and extracted with dichloromethane. The organic layer was washed with saturated NH4Cl solution and brine and dried over Na2SO4. The volatiles were removed in vacuo to afford 56 mg (40%) of desired product after column purification.

reactant | (S)-Benzyl 2-amino-4-(difluoromethoxy)butanoate | 0.448 mmol, 116 mg | N[C@H](C(=O)OCC1=CC=CC=C1)CCOC(F)F | C12H15F2NO3
reactant | methylchloroformate | 0.538 mmol, 51 mg | COC(=O)Cl | C2H3ClO2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | (S)-benzyl 4-(difluoromethoxy)-2-(methoxycarbonylamino)butanoate | 56 mg, 40% | FC(OCC[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC)F | C14H17F2NO5
